US04228168
8.70 g of N-methyl-tryptamine (i.e., 3-(2-methylaminoethyl)-indole) were dissolved in 100 ml of benzene, and 5.7 g of glutaric acid anhydride were added thereto. The mixture was stirred at 80° C. for 3 hours. After the reaction was completed, the mixture was evaporated to remove solvent. 12.0 g of N-methyl-N-(4-carboxybutyryl)-tryptamine (i.e., 3-[2-(N-methyl-4-carboxybutanamido)ethyl]-indole) were thereby obtained. Yield: 90%

reactant | N-methyl-tryptamine | 8.70 g | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
reactant | glutaric acid anhydride | 5.7 g | C1(CCCC(=O)O1)=O | C5H6O3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-methyl-N-(4-carboxybutyryl)-tryptamine | 12.0 g, Yield: 90% | CN(CCC1=CNC2=CC=CC=C12)C(CCCC(=O)O)=O | C16H20N2O3
